US05411980
Step C: 5-n-Butyl-2,4-dihydro-2-[3-(N-methyl-N-phenylcarbamoyloxy)propyl]-4-[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one
Deprotection of 5-n-butyl-2,4-dihydro-2-[3-(N-methyl-N-phenylcarbamoyloxy)propyl]-4-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one in 50% aqueous acetic acid was accomplished by the procedure of Example 3, Step B. After work-up, the residue was flash chromatographed over silica gel (35 mL for 0.13 mmole, gradient elution using 2-10% MeOH/CH2Cl2) to give the desired material as a foam in 68% yield, homogeneous by TLC in 10% MeOH/CH2Cl2, mass spectrum (FAB) m/e 567 (M+1)+.

reactant | 5-n-butyl-2,4-dihydro-2-[3-(N-methyl-N-phenylcarbamoyloxy)propyl]-4-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one | C(CCC)C=1N(C(N(N1)CCCOC(N(C1=CC=CC=C1)C)=O)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C50H48N8O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-n-Butyl-2,4-dihydro-2-[3-(N-methyl-N-phenylcarbamoyloxy)propyl]-4-[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one | 68% yield | C(CCC)C=1N(C(N(N1)CCCOC(N(C1=CC=CC=C1)C)=O)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C31H34N8O3
